US06201156B1
To a mixture of 10 mmol of phthalan (isocoumaran), 1 mmol of N-hydroxyphthalimide, and 5 ml of acetonitrile was introduced 10 mmol of nitrogenmonoxide, and the resultantmixture was stirred at 60° C. for 8 hours. Isolation of products in the reaction mixture by column chromatography on a silica gel revealed that phthalan was converted, at a rate of 15%, into phthalaldehyde (yield: 1%), 1-hydroxyphthalan (yield: 3%), NHPI adduct (yield: 3%), and an acetamide compound (yield: 3%).

reactant | phthalan | 10 mmol | C1C2=CC=CC=C2CO1 | C8H8O
reactant | N-hydroxyphthalimide | 1 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | phthalaldehyde | yield: 1% | C(C=1C(C=O)=CC=CC1)=O | C8H6O2
